US08097759B2
5-Chloro-2-hydroxy-N-(1-naphthyl)benzamide (Compound No. 32)
Using 5-chlorosalicylic acid and 1-naphthylamine as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 1-naphthylamine | C1(=CC=CC2=CC=CC=C12)N | C10H9N
product | 5-Chloro-2-hydroxy-N-(1-naphthyl)benzamide | Yield: 66.0% | ClC=1C=CC(=C(C(=O)NC2=CC=CC3=CC=CC=C23)C1)O | C17H12ClNO2
